US05043142
To a solution of 603 mg (15.1 mmol) of sodium hydride contained at 60% in mineral oil in dry dimethylformamide (50 ml) was added 259 mg (4.17 mmol) of ethylene glycol in an atmosphere of argon, and the mixture was allowed to react at 40°-50° C. for 30 min. Then, 2.69 g (10.8 mmol) of 4-bromobenzyl bromide was added, and the mixture was reacted at room temperature for 20 hours. To the reaction mixture at 0° C. was added a saturated aqueous solution of ammonium chloride followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane yielded 1.57 g (3.93 mmol) of 1,6-bis(4-bromophenyl)-2,5-dioxahexane.

reactant | sodium hydride | 15.1 mmol, 603 mg | [H-].[Na+]
reactant | ethylene glycol | 4.17 mmol, 259 mg | C(CO)O | C2H6O2
reactant | 4-bromobenzyl bromide | 10.8 mmol, 2.69 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,6-bis(4-bromophenyl)-2,5-dioxahexane | 3.93 mmol, 1.57 g | BrC1=CC=C(C=C1)COCCOCC1=CC=C(C=C1)Br | C16H16Br2O2
